US04033977
4-[2-(Methylamino)ethyl]-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[ 4,3-d] thiazole (I; R1 = H, R2 =CH3, R3 = NHCH3 and n= 1)
To a solution of 4-(2-bromoethyl)-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[ 4,3-d]thiazole (3.14 g, 9.28 mmoles, described above) in dry tetrahydrofuran (50 ml), methylamine gas is slowly added during one hr. After standing overnight additional methylamine gas is introduced and the solution is allowed to stand for 24 hr. After evaporation under reduced pressure the residue is taken up in aqueous sodium bicarbonate solution and extracted with chloroform. The organic extract is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is dissolved in acetone-ether and the crystalline precipitate is removed by filtration. The filtrate is evaporated under reduced pressure to give the title compound, nmr (CDCl3) δ 1.57 (s, 3H), 2.07 (t, J= 5Hz), 2.44 (s, 3H), 2.60 (m, 2H), 2.94 (t, J= 5.5 Hz), 4.10 (t, J= 5.5 Hz), 7.5-8.0 (m, 5H), identical to the amine described in Example 31.

reactant | 4-(2-bromoethyl)-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[ 4,3-d]thiazole | 9.28 mmoles, 3.14 g | BrCCC1(OCCC=2N=C(SC21)C2=CC=CC=C2)C | C15H16BrNOS
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-[2-(Methylamino)ethyl]-6,7-dihydro-4-methyl-2-phenyl-4H-pyrano[ 4,3-d] thiazole | CNCCC1(OCCC=2N=C(SC21)C2=CC=CC=C2)C | C16H20N2OS
